US04433152
A mixture of 1.5 g of 1-amidino-4-piperidinecarboxylic acid hydrochloride and 7.6 g of bis-(p-methylphenyl)sulfite was stirred at room temperature for 1.5 hours in a solution of 7 ml of dry dimethylformamide and 7 ml of dry pyridine. The solvent was removed under reduced pressure, and ether was added to the residue to give crystals. After being washed with ether and then with ethyl acetate, the crystals were reprecipitated from methanol-ether and recrystallized from isopropanol-isopropyl ether to obtain 2.15 g (yield: 99.6%) of p-methylphenyl 1-amidino-4-piperidinecarboxylate hydrochloride as colorless crystals having a melting point of 187° to 189° C.

reactant | 1-amidino-4-piperidinecarboxylic acid hydrochloride | 1.5 g | Cl.C(N)(=N)N1CCC(CC1)C(=O)O
reactant | bis-(p-methylphenyl)sulfite | 7.6 g | CC1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C | C14H14O3S
reactant | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | p-methylphenyl 1-amidino-4-piperidinecarboxylate hydrochloride | 2.15 g, yield: 99.6% | Cl.C(N)(=N)N1CCC(CC1)C(=O)OC1=CC=C(C=C1)C | InChI=1S/C14H19N3O2.ClH/c1-10-2-4-12(5-3-10)19-13(18)11-6-8-17(9-7-11)14(15)16;/h2-5,11H,6-9H2,1H3,(H3,15,16);1H
